US04535073
A mixture of 2.44 grams of diisopropyl acetonylphosphonate, 1.15 grams of methyl 3-aminocrotonate, and 1.51 grams of m-nitrobenzaldehyde was dissolved in 10 ml of isopropanol, then 290 mg of piperidine acetate was added thereto, and the mixture was heated to reflux for sixteen hours with stirring. The reaction solution was concentrated in vacuo, to the residue was added ether, the resulting crystals were collected by filtration, washed with ether and then with water, dried, and recrystallized from ethyl acetate to afford 1.57 grams (yield 34%) of methyl 2,6-dimethyl-4-(3-nitrophenyl)-5-diisopropoxyphosphinyl-1,4-dihydropyridine-3-carboxylate, melting point 205°-7° C.

reactant | diisopropyl acetonylphosphonate | 2.44 grams | C(C(=O)C)P(OC(C)C)(OC(C)C)=O | C9H19O4P
reactant | methyl 3-aminocrotonate | 1.15 grams | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | m-nitrobenzaldehyde | 1.51 grams | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine acetate | 290 mg | C(C)(=O)O.N1CCCCC1
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | methyl 2,6-dimethyl-4-(3-nitrophenyl)-5-diisopropoxyphosphinyl-1,4-dihydropyridine-3-carboxylate | 1.57 grams, yield 34% | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])P(=O)(OC(C)C)OC(C)C)C | C21H29N2O7P
